US04499094
Operations are carried out as for Example 7, starting from 2.83 g of 1-(2-chloro phenyl) isoquinoline 3-carboxylic acid, 1.15 g of triethylamine, 1.24 g of ethyl chloroformate and 1.56 g of N-methyl benzylamine in 100 ml of chloroform. 2.5 g of N-methyl N-phenylmethyl 1-(2-chloro phenyl) isoquinoline 3-carboxamide, melting at 128° C., are obtained.

reactant | 1-(2-chloro phenyl) isoquinoline 3-carboxylic acid | 2.83 g | ClC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10ClNO2
reactant | triethylamine | 1.15 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.24 g | ClC(=O)OCC | C3H5ClO2
reactant | N-methyl benzylamine | 1.56 g | CNCC1=CC=CC=C1 | C8H11N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl N-phenylmethyl 1-(2-chloro phenyl) isoquinoline 3-carboxamide | 2.5 g | CN(C(=O)C=1N=C(C2=CC=CC=C2C1)C1=C(C=CC=C1)Cl)CC1=CC=CC=C1 | C24H19ClN2O
